US07279478B2
Synthesis of (2S)-N-(Cyanomethyl)-4-methyl-2-{[(R)-[4′-(methylthio)-1,1′-biphenyl-4-yl](phenyl)methyl]oxy}pentanamide
To a solution of (2S)-2-{[(R)-(4-bromophenyl)(phenyl)methyl]oxy}-N-(cyanomethyl)-4-methylpentanamide (0.84 mmol, 348 mg) in toluene (5 mL) and n-propanol (1.5 mL) was added under a stream of nitrogen 4-(methylthio)phenylboronic acid (1.0 mmol, 169 mg), Pd(PPh3)4 (0.042 mmol, 48 mg), Na2CO3 (2 M, 2 mL). The mixture was degassed with a rapid stream of nitrogen bubbling through the mixture and the mixture was heated to 100° C. for 2 h. The mixture was cooled, diluted with EtOAc and washed with water. The product was isolated by chromatography (40% EtOac/Hexane).

reactant | (2S)-2-{[(R)-(4-bromophenyl)(phenyl)methyl]oxy}-N-(cyanomethyl)-4-methylpentanamide | 0.84 mmol, 348 mg | BrC1=CC=C(C=C1)[C@H](O[C@H](C(=O)NCC#N)CC(C)C)C1=CC=CC=C1 | C21H23BrN2O2
reactant | nitrogen 4-(methylthio)phenylboronic acid | 1.0 mmol, 169 mg | CSC1=CC=C(C=C1)B(O)O.[N]
reactant | Na2CO3 | 2 M, 2 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
solvent | n-propanol | 1.5 mL | C(CC)O | C3H8O
catalyst | Pd(PPh3)4 | 0.042 mmol, 48 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | (2S)-N-(Cyanomethyl)-4-methyl-2-{[(R)-[4′-(methylthio)-1,1′-biphenyl-4-yl](phenyl)methyl]oxy}pentanamide | C(#N)CNC([C@H](CC(C)C)O[C@H](C1=CC=CC=C1)C1=CC=C(C=C1)C1=CC=C(C=C1)SC)=O | C28H30N2O2S
